US07875606B2
43.5 g (136.1 mmoles) of 4-bromomethyl-1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazole was added to 300 ml of a N,N-dimethylformamide solution containing 21.8 g (272.2 mmoles) of sodium hydrosulfide hydrate (purity: 70%). The mixture was stirred at room temperature overnight to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into ice water and extraction with diethyl ether was conducted. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to reduced pressure distillation to remove the solvent contained therein, to obtain 32.3 g (yield: 87.0%) of (1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazol-4-yl)-metha-nethiol.

reactant | 4-bromomethyl-1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazole | 136.1 mmoles, 43.5 g | BrCC=1C(=NN(C1Cl)C(C)(C)C)C(F)(F)F | C9H11BrClF3N2
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
reactant | sodium hydrosulfide hydrate | 272.2 mmoles, 21.8 g | O.[SH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazol-4-yl)-metha-nethiol | 32.3 g, yield: 87.0% | C(C)(C)(C)N1N=C(C(=C1Cl)CS)C(F)(F)F | C9H12ClF3N2S
